US07291619B2
To a solution of 2-bromobenzene thiol (10.0 g, 52.8 mmol, 1.0 eq.) in DMF (250 mL) was added K2CO3 (17.5 g, 126.7 mmol, 2.4 eq.) and isobutyl iodide (7.3 mL, 63.36 mmol, 1.2 eq). The reaction was warmed to about 40° C. and stirred overnight. The mixture was diluted with EtOAc (300 mL) and washed with water (100 mL) and brine (100 mL). The organic layer was extracted with EtOAc(2×). The combined organic extracts were dried (Na2SO4), filtered and concentrated to afford 1-bromo-2-isobutylsulfanyl-benzene (12.94 g, 52.8 mmol, 100%), which is then taken to the next step without any further purification. GCMS (EI): 244.0

reactant | 2-bromobenzene thiol | 52.8 mmol, 10.0 g, 1.0 eq. | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | K2CO3 | 126.7 mmol, 17.5 g, 2.4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | isobutyl iodide | 63.36 mmol, 7.3 mL, 1.2 eq | C(C(C)C)I | C4H9I
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 1-bromo-2-isobutylsulfanyl-benzene | 52.8 mmol, 12.94 g, 100% | BrC1=C(C=CC=C1)SCC(C)C | C10H13BrS
